US07091228B2
To a solution of 4-(4-bromophenyl)-2,2-dimethyl-4-oxobutanoic acid (8.33 g, 29.2 mmol) and 2,2-dimethoxypropane (3.95 g, 37.9 mmol) in methanol (100 mL) was added 1 M HCl in dioxane (2.0 mL). The reaction mixture was stirred at 50° C. for 22 h. The mixture was concentrated under reduced pressure. Toluene (2×60 mL) was added and the mixture concentrated again (2×) to afford methyl 4-(4-bromophenyl)-2,2-dimethyl-4-oxobutanoate as an off-white, semi-solid (8.60 g, 99%). This material was used in the next step without further purification. LC-MS: ret. time 3.23 min; m/z 298.8 (MH+); 1H NMR (300 MHz, CDCl3) δ 1.34 (s, 6H), 3.28 (s, 2H), 3.67 (s,3H), 7.58 (d, 2H), 7.78 (d, 2H).

reactant | 4-(4-bromophenyl)-2,2-dimethyl-4-oxobutanoic acid | 29.2 mmol, 8.33 g | BrC1=CC=C(C=C1)C(CC(C(=O)O)(C)C)=O | C12H13BrO3
reactant | 2,2-dimethoxypropane | 37.9 mmol, 3.95 g | COC(C)(C)OC | C5H12O2
reactant | HCl | 1 M | Cl | ClH
solvent | methanol | 100 mL | CO | CH4O
solvent | dioxane | 2.0 mL | O1CCOCC1 | C4H8O2
product | methyl 4-(4-bromophenyl)-2,2-dimethyl-4-oxobutanoate | BrC1=CC=C(C=C1)C(CC(C(=O)OC)(C)C)=O | C13H15BrO3
